US05830875
To 5.11 g of phenylmalonic acid in 50 mL of ether cooled to 0° C. was added 60 mL of a 1M solution of lithium aluminum hydride in THF. After stirring the mixture at room temperature overnight, the excess lithium aluminum hydride was quenched with ethyl acetate and dilute hydrochloric acid. The 1,3-dihydroxy-2-phenylpropane was isolated by ether extraction, and subsequent purification by flash chromatography gave 1.34 g of product characterized by NMR. This is treated with one equivalent of tosyl chloride in pyridine to afford the monotosylate. The purified monotosylate is heated in acetone with excess sodium iodide (as described in Example 23) to produce the 1-iodo-2-phenyl-3-propanol. Subsequent silylation with trimethylsilyltriflate (as in Example 16) and treatment of the iodosilylether with triphenylphosphine in toluene at 100 ° C. gives the title compound, which is characterized by its NMR and mass spectra.

reactant | phenylmalonic acid | 5.11 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1,3-dihydroxy-2-phenylpropane | OCC(CO)C1=CC=CC=C1 | C9H12O2
